US05786512
4-(4-hydroxy-1-butyl)-2-phenyl-1,3 dioxolane.
A mixture of 1,2,6-trihydroxyhexane (2.58 g) and benzaldehyde dimethyl acetal (3.18 g) is treated with toluene sulfonic acid hydrate (2.08 g). The mixture is allowed to stir at room temperature for 60 hours, and is then partitioned between saturated aqueous sodium bicarbonate (50 ml) and methylene chloride (20 ml). The benzaldehyde dimethyl acetal (3.18 g) is treated with toluene sulfonic acid hydrate (2.08 g). The mixture is allowed to stir at room temperature for 60 hours, and is then partitioned between saturated aqueous sodium bicarbonate (50 ml) and methylene chloride (20 ml). The layers are separated, the aqueous layer is re-extracted with methylene chloride, the organic layers are dried over anhydrous sodium sulfate, filtered, and concentrated to an oil (2.66 g), which is purified by column chromatography (silica gel, 1:1 ethyl acetate/hexanes). Pooling and concentrating the appropriate fractions give the title compound as an oil (1.19 g): TLC Rf =0.18 (silica, 1:1 ethyl acetate/hexanes); 1H NMR (CDCl3), δ, 1.62 (m, 6H), 3.67 (m, 3H), 3.25 (m, 2H), 6.37 (s, 0.6H), 6.50 (s, 0.4H), 8.04 (br. s, 5H).

reactant | 1,2,6-trihydroxyhexane | 2.58 g | OCC(CCCCO)O | C6H14O3
reactant | benzaldehyde dimethyl acetal | 3.18 g | COC(C1=CC=CC=C1)OC | C9H12O2
reactant | toluene sulfonic acid hydrate | 2.08 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
product | 4-(4-hydroxy-1-butyl)-2-phenyl-1,3 dioxolane | 1.19 g | OCCCCC1OC(OC1)C1=CC=CC=C1 | C13H18O3
